US06599902B2
Synthesis of 4-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-ylmethyl}-piperazine-1-carbaldehyde
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (178 mg) was condensed with 4-(5-formyl-2,4-dimethyl-1H-pyrrol-3-ylmethyl)-piperazine-1-carbaldehyde (125 mg) using piperidine (cat. amount) in ethanol at 80° C. for 4 hours to give the titled compound.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 178 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-(5-formyl-2,4-dimethyl-1H-pyrrol-3-ylmethyl)-piperazine-1-carbaldehyde | 125 mg | C(=O)C1=C(C(=C(N1)C)CN1CCN(CC1)C=O)C | C13H19N3O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-ylmethyl}-piperazine-1-carbaldehyde | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CN1CCN(CC1)C=O)C | C28H28Cl2N4O4S
